US06297258B1
4-[(2-Methoxy-ethyl)-methyl-amino]-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide Dihydrochloride
To a stirring solution of 1.2 g (3.5 mmol) of 6-amino-4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinoline-3-carbonitrile and 0.52 g (4.0 mmol) of diisopropylethylamine in 40 ml of tetrahydrofuran at 0° C. was added a solution of 4-bromo crotonyl chloride in 10 ml of tetrahydrofuran. After 45 min, 1.87 (21 mmol) of 2-methoxyethyl methyl amine was added. After 1 hr at room temperature, the mixture was poured into a solution of sodium bicarbonate and extracted with ethyl acetate. The organic solution was dried over magnesium sulfate. The solvent was removed and the residue was purified by chromatography on silica gel. Product eluted with ethyl acetate-methanol-triethylamine 40:8:1 giving 0.87 g of the free base. This was dissolved in 20 ml of ethyl acetate and 10 ml of a solution of hydrogen chloride in ether was added. The solid was collected giving 1.02 g of the title compound as a yellow powder: mass spectrum (electrospray, m/e): M+H 498.0, (M+2H)+2248.5.

reactant | 6-amino-4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinoline-3-carbonitrile | 3.5 mmol, 1.2 g | NC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=C(C=C1)F)Cl | C17H12ClFN4O
reactant | diisopropylethylamine | 4.0 mmol, 0.52 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromo crotonyl chloride | BrC/C=C/C(=O)Cl | C4H4BrClO
reactant | 2-methoxyethyl methyl amine | COCCNC | C4H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[(2-Methoxy-ethyl)-methyl-amino]-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide Dihydrochloride | 1.02 g | Cl.Cl.ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN(C)CCOC)=O)OC)C#N | InChI=1S/C25H25ClFN5O3.2ClH/c1-32(9-10-34-2)8-4-5-24(33)31-22-12-18-21(13-23(22)35-3)29-15-16(14-28)25(18)30-17-6-7-20(27)19(26)11-17;;/h4-7,11-13,15H,8-10H2,1-3H3,(H,29,30)(H,31,33);2*1H
